US07700774B2
Step (iii): Preparation of 6,8-dimethyl-4-oxo-4H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester
6,8-Dimethyl-4-oxo-1,4-dihydro-[1,7]naphthyridine-3-carboxylic acid ethyl ester (0.2 g, 0.628 mmol), prepared in step (ii), and dichloromethane (10 mL) were added to a 50 mL round bottom flask. This mixture was cooled to 0° C. and stirred, and triethylamine (0.19 g, 1.88 mmol) was then added to the mixture dropwise. Stirring of the reaction mixture was continued at the same temperature for another 0.5 h, after which time benzyl chloroformate (0.16 g, 0.943 mmol) was added to the mixture. The temperature was allowed to increase to RT, and stirring was continued at this temperature for 2 h. Water was added to the reaction mixture and the mixture was extracted with dichloromethane (2×25 mL). The combined organic phase was washed with brine, dried over sodium sulfate, and the organic solvent was evaporated to provide a residue. This residue was purified by column chromatography over 100-200 mesh silica gel, used 5% MeOH and chloroform as eluent, to provide the compound as a yellow solid (0.1 g, 42%).

reactant | 6,8-Dimethyl-4-oxo-1,4-dihydro-[1,7]naphthyridine-3-carboxylic acid ethyl ester | 0.628 mmol, 0.2 g | C(C)OC(=O)C1=CNC2=C(N=C(C=C2C1=O)C)C | C13H14N2O3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | triethylamine | 1.88 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.943 mmol, 0.16 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | Water | O | H2O
product | 6,8-dimethyl-4-oxo-4H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester | 0.1 g, 42% | C(C)OC(=O)C1=CN(C2=C(N=C(C=C2C1=O)C)C)C(=O)OCC1=CC=CC=C1 | C21H20N2O5
